** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/TB_AND.sch
**.subckt TB_AND
x1 avdd1p2 vB vA vout avss1p2 AND
v1 avdd1p2 avss1p2 DC{vdd}
C1 vout avss1p2 10f
v2 avss1p2 0 DC{vss}
vA vA avss1p2 PULSE({vdd} 0 0.1n 1p 1p {Tclk/2} {Tclk}) DC 0 AC 0
vB vB avss1p2 PULSE({vdd} 0 0.1n 1p 1p {Tclk} {Tclk*2}) DC 0 AC 0
**** begin user architecture code


* Circuit Parameters
.param vdd = 1.2
.param vss = 0.0
.param Tclk = 10n
.options TEMP = 27.0
* Include Models - IHP SG13G2
.lib cornerMOSlv.lib mos_tt
* OP Parameters & Singals to save
.save all
*Simulations
.control
tran 0.01u 100n
setplot tran1
plot v(vA) v(vB)+1.5 v(vout)+3
set filetype = ascii
write dcsweep.raw
.endc
.end


**** end user architecture code
**.ends

* expanding   symbol:  AND.sym # of pins=5
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/AND.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/AND.sch
.subckt AND vdd vA vB vout vss
*.iopin vout
*.iopin vA
*.iopin vB
*.iopin vdd
*.iopin vss
XM2 net1 vA net2 vss sg13_lv_nmos w=1.5u l=0.15u ng=1
XM0 net1 vA vdd vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
XM3 net2 vB vss vss sg13_lv_nmos w=1.5u l=0.15u ng=1
XM1 net1 vB vdd vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
XM4 vout net1 vdd vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
XM5 vout net1 vss vss sg13_lv_nmos w=0.15u l=0.75u ng=1
.ends

.end
